US08247431B2
Step 3: Preparation of 5-amino-2-chloroisonicotinic acid
A suspension of 5-tert-butoxycarbonylamino-2-chloro-isonicotinic acid (2.46 g) in aqueous 2N potassium hydroxide solution (45 mL) was stirred at 90° C. for 5 hours. After cooling to room temperature, the solution was acidified by slow addition of 6N hydrochloric acid. The formed precipitate was filtered off, washed with water, MTB-ether and hexane and dried in vacuum to afford 700 mg of the title compound of the formula

reactant | 5-tert-butoxycarbonylamino-2-chloro-isonicotinic acid | 2.46 g | C(C)(C)(C)OC(=O)NC1=CN=C(C=C1C(=O)O)Cl | C11H13ClN2O4
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | potassium hydroxide | 2N, 45 mL | [OH-].[K+]
product | 5-amino-2-chloroisonicotinic acid | 700 mg | NC1=CN=C(C=C1C(=O)O)Cl | C6H5ClN2O2
